US07163947B2
A solution of N-benzyl(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)amine (427 mg, 1.29 mmol) in 20 mL of CH2Cl2 was treated with MCPBA (77% max., 325 mg, 1.41 mmol). After stirring for 3 h, the reaction was quenched with saturated NaHCO3 solution and extracted into CH2Cl2. The organic portion was washed with saturated NaHCO3 solution, H2O and brine. The organic was dried over Na2SO4, filtered and concentrated to give N-benzyl(2-butyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)amine (393 mg) as a light brown foam.

reactant | N-benzyl(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)amine | 1.29 mmol, 427 mg | C(C1=CC=CC=C1)NN1C(=NC=2C=NC=3C=CC=CC3C21)CCCC | C21H22N4
reactant | MCPBA | 1.41 mmol, 325 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | N-benzyl(2-butyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)amine | 393 mg | C(C1=CC=CC=C1)NN1C(=NC=2C=[N+](C=3C=CC=CC3C21)[O-])CCCC | C21H22N4O
